US04008273
Preparation of 2(-tert.-butylazo)propene
To a solution of 6.75 g. (.007 m.) tert.-butylhydrazine in 50 ml. of methylene chloride containing 2 g. of anhydrous sodium sulfate, was added 3.0 g. (.0326 m.) chloroacetone. The addition was carried out dropwise holding the reaction temperature below 10° C. with an ice bath. The reaction was stirred and additional 45 minutes and filtered. The filtrate was washed with cold water (10° C.), dried over anhydrous sodium sulfate, filtered and the methylene chloride evaporated off using a rotating evaporator and a 20° C. water bath. A yellow oil containing some solids suspended in it was obtained. The crude material was slurried in cold pentane and filtered. The pentane was then evaporated off from the filtrate on the rotating evaporator. The yield was 1.9 g. (47%) of a yellow oil. The infra-red spectrum was consistent with the structure of the proposed compound. 2-tert.-butylazopropene is a thermally unstable compound and evolves nitrogen at room temperature and is therefore a very low temperature blowing agent.

reactant | tert.-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | methylene chloride | 2 g | C(Cl)Cl | CH2Cl2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
solvent | pentane | CCCCC | C5H12
product | 2(-tert.-butylazo)propene | C(C)(C)(C)N=NC(=C)C | C7H14N2
